US08217069B2
A mixture of 2-chloro-3-nitropyridine (0.12 g), 2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyaniline (0.26 g) and N,N-diisopropylethylamine (0.14 mL) in acetonitrile (3 mL) was stirred at 130° C. in a reaction vessel equipped with a reflux condenser overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (4 mL)-methanol (4 mL). To the solution were added nickel(II) bromide (9 mg) and sodium borohydride (89 mg) under ice-cooling, and the mixture was stirred under ice-cooling for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=67/33−35/65) to give 3-amino-2-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]pyridine (62 mg). This material was dissolved in tetrahydrofuran (2 mL). To the solution were added sodium hydride (55%, 20 mg) and thiophosgene (0.012 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added N,N-dimethylformamide (1 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/2) to give the title compound (28 mg).

reactant | 2-chloro-3-nitropyridine | 0.12 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyaniline | 0.26 g | ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H14ClF2NO3
reactant | N,N-diisopropylethylamine | 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-amino-2-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]pyridine | 62 mg | NC=1C(=NC=CC1)NC1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl | C20H18ClF2N3O3
